* /home/inderjitsingh/esim_mixed_signal_marathon_2022/digital_sine_wave/digital_sine_wave.cir

.include 10bitDAC.sub
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ inderjit_prs8bit_generator
* u3  clk reset net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u6  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ dac_bridge_8
v1  clk gnd pulse(0 5 500n 50n 50n 488.28n 976.56n)
v2  reset gnd pulse(0 5 0 50n 50n 2u 10m)
r1  dac_out net-_l1-pad1_ 130
* u7  dac_out plot_v1
* u8  analog_out plot_v1
* u4  reset plot_v1
* u5  clk plot_v1
l1  net-_l1-pad1_ analog_out 10mh
c2  analog_out gnd 2.5u
x1 net-_u6-pad16_ net-_u6-pad15_ net-_u6-pad14_ net-_u6-pad13_ net-_u6-pad12_ net-_u6-pad11_ net-_u6-pad10_ net-_u6-pad9_ gnd gnd dac_out 10bitDAC
* u9  clk net-_u2-pad1_ adc_bridge_1
* u2  net-_u2-pad1_ net-_u1-pad3_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ inderjit_d_sine
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] u1
a2 [clk reset ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
a3 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] [net-_u6-pad9_ net-_u6-pad10_ net-_u6-pad11_ net-_u6-pad12_ net-_u6-pad13_ net-_u6-pad14_ net-_u6-pad15_ net-_u6-pad16_ ] u6
a4 [clk ] [net-_u2-pad1_ ] u9
a5 [net-_u2-pad1_ ] [net-_u1-pad3_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
* Schematic Name:                             inderjit_prs8bit_generator, NgSpice Name: inderjit_prs8bit_generator
.model u1 inderjit_prs8bit_generator(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             inderjit_d_sine, NgSpice Name: inderjit_d_sine
.model u2 inderjit_d_sine(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-03 1e-03 0e-00

* Control Statements 
.control
option opalter
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(dac_out)
plot v(analog_out)
plot v(reset)
plot v(clk)
.endc
.end
